US06635657B1
D. 2-[(4-boc-Piperazin-1-ylcarbonyl)amino]-5-chloro-N-(5-chloropyridin-2-yl)benzamide
To a stirred solution of 2-amino-5-chloropyridine (0.6 g, 4.64 mmol) in tetrahydrofuran (80 mL) at 0° C. under nitrogen was added allylmagnesium bromide (1.0 M in ether, 4.7 mL, 4.7 mmol) dropwise via a syringe. After stirring at 0° C. for 10 min, 2-(4-Boc-1-piperazinyl)-6-chloro-4H-3,1-benzoxazin-4-one (0.8 g, 2.19 mmol) was added. After stirring 15 h at room temperature, the solvent was removed in vacuo. The residue was partitioned between ethyl acetate and saturated aqueous sodium chloride and the layers separated. The organic phase was washed with water, dried (magnesium sulfate), filtered, and concentrated in vacuo to give 0.88 g (82%) of the title compound as a white solid.

reactant | 2-amino-5-chloropyridine | 4.64 mmol, 0.6 g | NC1=NC=C(C=C1)Cl | C5H5ClN2
reactant | allylmagnesium bromide | 4.7 mmol, 1.0 M, 4.7 mL | C(C=C)[Mg]Br
reactant | 2-(4-Boc-1-piperazinyl)-6-chloro-4H-3,1-benzoxazin-4-one | 2.19 mmol, 0.8 g | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=NC2=C(C(O1)=O)C=C(C=C2)Cl | C17H20ClN3O4
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | 2-[(4-boc-Piperazin-1-ylcarbonyl)amino]-5-chloro-N-(5-chloropyridin-2-yl)benzamide | 0.88 g, 82% | C(=O)(OC(C)(C)C)N1CCN(CC1)C(=O)NC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=C(C=C1)Cl | C22H25Cl2N5O4
